US09238640B2
Preparation of 2-(4-(4-(4-Fluorobenzyl)piperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.200 g, 0.55 mmol) in DMF (5 mL) was added 4-fluorobenzyl bromide (0.07 mL, 0.55 mmol) and K2CO3 (0.15 g, 1.10 mmol). The reaction was stirred at room temperature for 2 hours then diluted with H2O and the solids filtered off to afford the title compound (0.17 g, 65%) as a light brown solid. 1H NMR (300 MHz, DMSO-d6): δ 11.76 (br s, 1H), 8.09 (d, J=8.1 Hz, 2H), 7.26-7.52 (m, 2H), 7.08-7.25 (m, 2H), 7.00 (d, J=8.0 Hz, 2H), 6.68 (s, 1H), 6.46 (s, 1H), 3.87 (s, 3H), 3.83 (s, 3H), 3.51 (s, 2H), 3.08-3.41 (m, 4H), 2.23-2.68 (m, 4H). APCI MS m/z 475 [M+H]+.

reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.55 mmol, 0.200 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
reactant | 4-fluorobenzyl bromide | 0.55 mmol, 0.07 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | K2CO3 | 1.10 mmol, 0.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-(4-(4-(4-Fluorobenzyl)piperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.17 g, 65% | FC1=CC=C(CN2CCN(CC2)C2=CC=C(C=C2)C2=NC3=CC(=CC(=C3C(N2)=O)OC)OC)C=C1 | C27H27FN4O3
